US07326788B2
4-(4-Ethyl-phenyl)-3-(2-methyl-thiazol-4-yl)-2-oxo-1,2-dihydro-quinoline-6-carbonitrile
Synthesized from (2-methyl-thiazol-4-yl)-acetic acid and 4-Amino-3-(4-ethyl-benzoyl)-benzonitrile according to general procedure 2. Yield 27%.

reactant | (2-methyl-thiazol-4-yl)-acetic acid | CC=1SC=C(N1)CC(=O)O | C6H7NO2S
reactant | 4-Amino-3-(4-ethyl-benzoyl)-benzonitrile | NC1=C(C=C(C#N)C=C1)C(C1=CC=C(C=C1)CC)=O | C16H14N2O
product | 4-(4-Ethyl-phenyl)-3-(2-methyl-thiazol-4-yl)-2-oxo-1,2-dihydro-quinoline-6-carbonitrile | Yield 27% | C(C)C1=CC=C(C=C1)C1=C(C(NC2=CC=C(C=C12)C#N)=O)C=1N=C(SC1)C | C22H17N3OS
